US04260411
A solution of 4-phenoxymethylaniline (10 g) in toluene (100 ml) was added dropwise to a solution of phosgene (20 g) in toluene (100 ml) at 10° to 20° C. The mixture was gradually heated and refluxed for 30 minutes. Thereafter, the reaction mixture was cooled to room temperature, and the solvent was evaporated under reduced pressure to give 7 g of 4-phenoxymethylphenyl isocyanate. M.P., 56°-57° C.

reactant | 4-phenoxymethylaniline | 10 g | O(C1=CC=CC=C1)CC1=CC=C(N)C=C1 | C13H13NO
reactant | phosgene | 20 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-phenoxymethylphenyl isocyanate | 7 g | O(C1=CC=CC=C1)CC1=CC=C(C=C1)N=C=O | C14H11NO2
